US06933299B1
(4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-((2-iso-propyl-sulphonyl-ethylamino)-methyl)-furan-2-yl)-quinazolin-4-yl)-amine
The title compound and its hydrochloride salt are prepared according to Procedure D utilizing 5-{4-[4-(3-fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furaldehyde (0.317 mmol, 0.15 g), Isopropylsulfonylethyl amine hydrochloride salt (0.475 mmol, 0.105 g) in the presence of Et3N (0.95 mmol, 0.13 mL) and NaBH4 (1.1 mmol, 0.041 g) in THF/MeOH. 1H NMR (DMSO-d6) 11.74 (bs, 1H); 9.90 (bs, 2H); 9.63 (s, 1H); 8.91 (s, 1H); 8.42 (d, 1H); 8.04 (m, 1H); 7.95 (d, 1H); 7.81 (d, 1H); 7.47 (m, 1H); 7.37-7.28 (m, 4H); 7.18 (m, 1H); 6.83 (m, 1H); 5.29 (s, 2H); 4.45 (s, 2H); 3.72-3.39 (m, 5H); 1.26 (d, 6H). Electrospray MS 609.

reactant | 5-{4-[4-(3-fluoro-benzyloxy)-3-chloroanilino]-6-quinazolinyl}-2-furaldehyde | 0.317 mmol, 0.15 g | FC=1C=C(COC2=C(C=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=O)C=C2)Cl)C=CC1 | C26H17ClFN3O3
reactant | Isopropylsulfonylethyl amine hydrochloride salt | 0.475 mmol, 0.105 g | Cl.C(C)(C)S(=O)(=O)CCN
reactant | Et3N | 0.95 mmol, 0.13 mL | CCN(CC)CC | C6H15N
reactant | NaBH4 | 1.1 mmol, 0.041 g | [BH4-].[Na+]
reactant | THF MeOH | C1CCOC1.CO
product | (4-(3-Fluorobenzyloxy)-3-chlorophenyl)-(6-(2-((2-iso-propyl-sulphonyl-ethylamino)-methyl)-furan-2-yl)-quinazolin-4-yl)-amine | FC=1C=C(COC2=C(C=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C2(OC=CC2)CNCC(C(C)C)=S(=O)=O)Cl)C=CC1 | C31H30ClFN4O4S
